US09382197B2
To a 2-dram vial was added tert-butyl 4-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]benzoate (0.0586 g, 0.180 mmol), hydrochloric acid (0.14 mL, 0.54 mmol, 4.0 M in 1,4-dioxane), and methanol (2 mL). The mixture was stirred at rt for 2 h. The solvent was then completely removed to give tert-butyl-4-[(1R)-1-aminoethyl]benzoate hydrochloride as a white solid. LC-MS: (FA) ES+ 222.

reactant | tert-butyl 4-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]benzoate | 0.180 mmol, 0.0586 g | C(C)(C)(C)[S@](=O)N[C@H](C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H27NO3S
reactant | hydrochloric acid | 0.54 mmol, 4.0 M, 0.14 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | tert-butyl-4-[(1R)-1-aminoethyl]benzoate hydrochloride | Cl.C(C)(C)(C)OC(C1=CC=C(C=C1)[C@@H](C)N)=O | InChI=1S/C13H19NO2.ClH/c1-9(14)10-5-7-11(8-6-10)12(15)16-13(2,3)4;/h5-9H,14H2,1-4H3;1H/t9-;/m1./s1
